US07262198B2
A solution of 1-[4-(2-aminoethyl)piperazinyl]-3-(2-methylbenzothiazol-5-yloxy)propan-2-ol (60 mg, 0.171 mmol) in DME (6 mL) was cooled to 0° C. and benzene sulfonyl chloride (0.022 mL, 0.172 mmol) was added. The solution was stirred at 0° C. for 5 min and then at RT for 10 min. The reaction mixture was concentrated to an oil and purified via flash column chromatography (9:1 CHCl3/MeOH) to afford (2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl) (phenylsulfonyl)amine.

reactant | 1-[4-(2-aminoethyl)piperazinyl]-3-(2-methylbenzothiazol-5-yloxy)propan-2-ol | 0.171 mmol, 60 mg | NCCN1CCN(CC1)CC(COC=1C=CC2=C(N=C(S2)C)C1)O | C17H26N4O2S
reactant | benzene sulfonyl chloride | 0.172 mmol, 0.022 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DME | 6 mL | COCCOC | C4H10O2
product | (2-{4-[(2R)-2-hydroxy-3-(2-methylbenzothiazol-5-yloxy)propyl]piperazinyl}ethyl) (phenylsulfonyl)amine | O[C@H](CN1CCN(CC1)CCNS(=O)(=O)C1=CC=CC=C1)COC=1C=CC2=C(N=C(S2)C)C1 | C23H30N4O4S2
